US04092315
Conversion of the α-Form of Prazosin to the Polyhydrate
To 500 ml. of water, 50 g. of the α-form of prazosin hydrochloride was added and the mixture stirred and heated to 95° C. for 2 hours. After cooling to about 50° C. the slurry was filtered, washed with water and dried in air for 48 hours to obtain 50.5 g. of prazosin hydrochloride polyhydrate containing 12.4% water. The infrared spectrum obtained with a KBr disc was identical to that shown in FIG. II.

reactant | prazosin hydrochloride | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4.Cl
solvent | water | O | H2O
product | Prazosin | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4 | C19H21N5O4
